US03941782
α-methyl-γ-piperidinobutyric acid.
Some of the compounds produced according to the invention are: 4,4-diethyl-7-n-pentyl-9-[4-(piperidino)-butyryloxy]-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran, 4,4-di-(1-hexyl)-7-(3-methyl-2-octyl)-9-[4-(morpholino)-butyryloxy]-1,2,3,4,12,13-hexahydrocyclopenta[c][1]benzopyran, 4,4-dimethyl-7-(3-methyl-2-octyl)-9-[4-(piperidino)-butyryloxy]-1,2,3,4,12,13-hexahydrocyclopenta[c][1]benzopyran, 4,4-diethyl-7-octadecyl-9-[3-pyrrolidino)-propionyloxy]-1,2,3,4,12,13-hexahydrocyclopenta[c][1]benzopyran, 3-pentyl-1-[4-(thiomorpholino)-butyryloxy]6a,7,8,10a-tetrahydro-6,6,9-trimethyl-6H-dibenzo[b,d]pyran, 3-pentyl-1-[3-(pyrrolidino)-propionyloxy]-6a,7,10,10a-tetrahydro-6,6,9-trimethyl-6H-dibenzo[b,d]pyran, 1-[4-(homopiperidino)-butyryloxy]-7,8,9,10-tetrahydro-6H-dibenzo-[b,d]pyran and 1-[4-(morpholino)-butyryloxy]-3-pentyl-6a, 7,8,9,10,10a hexahydro-6H-dibenzo[b,d]pyran.

reactant | 4,4-diethyl-7-n-pentyl-9-[4-(piperidino)-butyryloxy]-1,2,3,4-tetrahydrocyclopenta[c][1]benzopyran | C(C)C1(OC2=C(C3=C1CCC3)C(=CC(=C2)CCCCC)OC(CCCN2CCCCC2)=O)CC | C30H45NO3
reactant | 3-pentyl-1-[4-(thiomorpholino)-butyryloxy]6a,7,8,10a-tetrahydro-6,6,9-trimethyl-6H-dibenzo[b,d]pyran | C(CCCC)C=1C=C(C2=C(OC(C3C2C=C(CC3)C)(C)C)C1)OC(CCCN1CCSCC1)=O | C29H43NO3S
reactant | 3-pentyl-1-[3-(pyrrolidino)-propionyloxy]-6a,7,10,10a-tetrahydro-6,6,9-trimethyl-6H-dibenzo[b,d]pyran | C(CCCC)C=1C=C(C2=C(OC(C3C2CC(=CC3)C)(C)C)C1)OC(CCN1CCCC1)=O | C28H41NO3
reactant | 1-[4-(morpholino)-butyryloxy]-3-pentyl-6a, 7,8,9,10,10a hexahydro-6H-dibenzo[b,d]pyran | O1CCN(CC1)CCCC(=O)OC1=CC(=CC=2OCC3C(C21)CCCC3)CCCCC | C26H39NO4
product | α-methyl-γ-piperidinobutyric acid | CC(C(=O)O)CCN1CCCCC1 | C10H19NO2
